US07872009B2
Step 2: 3-Phenylcyclopentanol
A mixture of 3-phenylcyclopentanone (1.3 g, 8.12 mmol) and NaBH4 (0.61 g, 16.24 mmol) in methanol (15 mL) was stirred at room temperature for 1 h. The mixture was concentrated, dissolved in CH2Cl2, washed with 10% HCl, brine, dried over MgSO4 and concentrated to afford the title compound as a white solid. MS m/z: 163 (M+1).

reactant | 3-phenylcyclopentanone | 8.12 mmol, 1.3 g | C1(=CC=CC=C1)C1CC(CC1)=O | C11H12O
reactant | NaBH4 | 16.24 mmol, 0.61 g | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 3-Phenylcyclopentanol | C1(=CC=CC=C1)C1CC(CC1)O | C11H14O
